Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
alendronate sodium / dilantin generic / erythromycin stinoprate 
/ Trusopt
 
Attending: ___
 
Chief Complaint:
pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
D&C, LeFort colpocleisis, perineorrhaphy, cystoscopy

 
History of Present Illness:
Mrs. ___ was a ___ G5P5 when she presented in ___ 
for consultation requested by Dr. ___ vaginal 
prolapse. She has a history of hysteroscopy D&C for benign 
thickened endometrium, and since then, the patient has noticed 
palpable prolapse. At that time she was voiding ___ times a day 
and ___ times a night, with no episodes of stress incontinence 
and without a history of recent UTIs. She was otherwise without 
significant concerns. At the time of her office visit she was 
fitted for a pessary (size 5 ring), and had a scheduled 
multichannel urodynamics for further assessment. In ___, 
Mrs. ___ had an attempted multichannel urodynamic test, 
however due to equipment malfunction, had a cough stress test 
performed, showing no evidence of stress incontinence and 
incomplete emptying of bladder. She then elected to proceed with 
a dilation and curettage, LeFort colpocleisis, perineorrhapy, 
and cystoscopy. 
 
Past Medical History:
PMH: G5P5, SVD x5, glaucoma, HTN, seizure disorder
PSH: hsc D&C, tonsillectomy
Meds: HCTZ, levetiracetam, nifedipine, lantoprost & pilocarpine 
eye drops
All: alendronate, dilantin generic, erythromycin, trusopt
 
Social History:
___
Family History:
Her family history is unremarkable for Breast, Ovarian or Colon
cancer.

 
Physical Exam:
General: A&O, NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, non-tender without rebound or
guarding
GU: pad with minimal spotting, foley with pyridium stained urine
Extremities: no edema, no TTP, pneumoboots in place bilaterally 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a D&C, LeFort colpocleisis, perineorrhaphy, 
cystoscopy for procedentia.

Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV morphine.  

On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
1. ___ Instilled 300 mL, voided 200+ mL with 95 mL residual.

Her diet was advanced without difficulty and she was 
transitioned to PO tramadol/acetaminophen.

By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
keppra, nifedipine, lisinopril, HCTZ, pilocarpine
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
3.  Senna 17.2 mg PO HS 
RX *sennosides 8.6 mg 2 by mouth every night Disp #*60 Tablet 
Refills:*2 
4.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg ___ tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*2
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 6 
hours as needed for pain Disp #*10 Tablet Refills:*0 
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  LevETIRAcetam 500 mg PO BID  
7.  Lisinopril 40 mg PO DAILY  
8.  NIFEdipine CR 30 mg PO DAILY  
9.  Pilocarpine 4% 1 DROP BOTH EYES QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the gynecology service after your 
procedure. ___ have recovered well and the team believes ___ are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina.
* No heavy lifting of objects >10 lbs for 6 weeks.
* ___ may eat a regular diet.
* ___ may walk up and down stairs.
* No tub baths for 6 weeks.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where ___ are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___